US06525042B1
1-[4-[2-(tert-Butoxycarbonylamino)pyridin-5-yl]benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine
In a mixed solvent of dichloromethane (20 ml) and N,N-dimethylformamide (1 ml), 4-[2-(tert-butoxycarbonyl)amino]pyridin-5-yl]benzoic acid (74 mg) and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine trifluoroacetate (110 mg) were suspended. To the resulting suspension, 1-hydroxybenzotriazole (35 mg) and N-methylmorpholine (34 μl) were added, followed by the addition of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (68 mg) under ice cooling. After stirring at room temperature for 6 hours, the solvent was distilled off. The residue was purified by chromatography on a silica gel column (1% methanol-dichloromethane). The solvent was then distilled off, whereby the title compound (128 mg, 90%) was obtained.

reactant | benzoic acid | 74 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine trifluoroacetate | 110 mg | FC(C(=O)O)(F)F.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
reactant | 1-hydroxybenzotriazole | 35 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 34 μl | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 68 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-[4-[2-(tert-Butoxycarbonylamino)pyridin-5-yl]benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | 128 mg, 90% | C(C)(C)(C)OC(=O)NC1=NC=C(C=C1)C1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)C=C1 | C31H31ClN4O5S
